US05986029
a. Preparation of ethvl 3-(N-pyrrolidinyl)propionate
Ethyl acrylate (110.0 g; 1.1 mol) was dissolved in THF (250 ml). To this a solution of pyrrolidine (71.5 g; 1.0 mol) in THF (100 ml) was added dropwise in 75 minutes, after which stirring was continued for 3.5 hours at room temperature. The reaction mixture was evaporated by means of a rotary evaporator. The yield was 161.8 g (94%).

reactant | Ethyl acrylate | 1.1 mol, 110.0 g | C(C=C)(=O)OCC | C5H8O2
reactant | pyrrolidine | 1.0 mol, 71.5 g | N1CCCC1 | C4H9N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethvl 3-(N-pyrrolidinyl)propionate | N1(CCCC1)CCC(=O)OCC | C9H17NO2
